US06555577B1
(E)-Ethyl 3-(5′-chloro-2′-methoxy-biphenyl-4-yl)-but-2-enoate (0.90 g, 2.72 mmol) was reduced with DIBAL-H by a procedure analogous to that described in example 52 b to give (E)-3-(5′-chloro-2′-methoxy-biphenyl-4-yl)-but-2-en-1-ol as a colourless oil; 0.785 g (100%).

reactant | (E)-Ethyl 3-(5′-chloro-2′-methoxy-biphenyl-4-yl)-but-2-enoate | 2.72 mmol, 0.90 g | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)/C(=C/C(=O)OCC)/C)OC | C19H19ClO3
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
product | (E)-3-(5′-chloro-2′-methoxy-biphenyl-4-yl)-but-2-en-1-ol | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)/C(=C/CO)/C)OC | C17H17ClO2
